US05374772
Using this procedure, reaction of 3,5-dihydroxybenzoic acid methyl ester with 1-(2-bromoethoxy)naphthalene gave 3,5-bis[2-(1-naphthalenyloxy)ethoxy]benzoic acid methyl ester, mp 132°-137°, Anal. Calcd for C32H28O6 : C, 75.58; H, 5.55. Found: C, 75.19: H, 5.44.

reactant | 3,5-dihydroxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 1-(2-bromoethoxy)naphthalene | BrCCOC1=CC=CC2=CC=CC=C12 | C12H11BrO
product | 3,5-bis[2-(1-naphthalenyloxy)ethoxy]benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCOC1=CC=CC2=CC=CC=C12)OCCOC1=CC=CC2=CC=CC=C12)=O | C32H28O6
